US09359367B2
To a stirred solution of (1R,3S)-methyl 3-(4-(4-chlorophenyl)piperazin-1-yl)cyclopentanecarboxylate (1.5 g, 4.65 mmol) in tetrahudrofuran:water (4:1) was added a solution of lithium hydroxide monohydrate (0.58 g, 13.94 mmol) in 5 ml water. Reaction mixture was allowed to stir at room temperature for 20 h. Upon completion, the reaction mixture was concentrated under reduced pressure to remove tetrahudrofuran. The resulting residue was diluted with 10 ml of water followed by washing with diethyl ether (3×20 ml). The aqueous layer was acidified at 0° C. with 1N hydrochloric acid to pH 6-7 and the mixture was extracted with ethyl acetate (2×50 ml). The organic layer was separated and dried over sodium sulphate and concentrated under reduced pressure to obtain (1R,3S)-3-(4-(4-chlorophenyl)piperazin-1-yl)cyclopentanecarboxylic acid (1.0 g, 69.7%).

reactant | (1R,3S)-methyl 3-(4-(4-chlorophenyl)piperazin-1-yl)cyclopentanecarboxylate | 4.65 mmol, 1.5 g | ClC1=CC=C(C=C1)N1CCN(CC1)[C@@H]1C[C@@H](CC1)C(=O)OC | C17H23ClN2O2
reactant | lithium hydroxide monohydrate | 13.94 mmol, 0.58 g | O.[OH-].[Li+]
solvent | water | 5 ml | O | H2O
product | (1R,3S)-3-(4-(4-chlorophenyl)piperazin-1-yl)cyclopentanecarboxylic acid | 1.0 g, 69.7% | ClC1=CC=C(C=C1)N1CCN(CC1)[C@@H]1C[C@@H](CC1)C(=O)O | C16H21ClN2O2
